US06235789B1
1-Cyanomethyl-1-hydroxy-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene
To a solution of 1,1,1,3,3,3-hexamethyldisilazane (4.74 g, 29.4 mmol) in THF (30 ml) was gradually added dropwise, at −78° C., a butyllithium hexane solution (1.56 M hexane solution, 18.8 ml, 29.4 mmol). The mixture was stirred for 10 minutes, to which was then added acetonitrile (1.41 ml, 26.9 mmol). The reaction mixture was stirred for further 20 minutes, to which was then added dropwise a solution of 7-methoxy-2,2-dimethyl-1-tetralone (5.0 g, 24.5 mmol) in THF (10 ml), followed by stirring for 2 hours. The reaction mixture was poured into water, and the organic layer was subjected to extraction with chloroform. The extract solution was washed with brine and water, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (ethyl acetate:hexane=2:8) to give the above-titled compound (5.3 g, yield 88%).

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 29.4 mmol, 4.74 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | butyllithium hexane | 29.4 mmol, 1.56 M, 18.8 ml | CCCCCC.C(CCC)[Li]
reactant | acetonitrile | 26.9 mmol, 1.41 ml | C(C)#N | C2H3N
reactant | 7-methoxy-2,2-dimethyl-1-tetralone | 24.5 mmol, 5.0 g | COC1=CC=C2CCC(C(C2=C1)=O)(C)C | C13H16O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-Cyanomethyl-1-hydroxy-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene | 5.3 g, yield 88% | C(#N)CC1(C(CCC2=CC=C(C=C12)OC)(C)C)O | C15H19NO2
